US09034866B2
Synthesis of (±)-10-bromo-9-fluoro-3-[hydroxy-(4-methylthiazol-5-yl)methyl]-5,6-dihydroimidazo[1,2-d][1,4]benzoxazepine-2-carboxamide
10-bromo-9-fluoro-3-[hydroxy-(4-methylthiazol-5-yl)methyl]-5,6-dihydroimidazo[1,2-d][1,4]benzoxazepine-2-carboxylic acid was reacted with ammonium chloride and purified by flash chromatography to afford 30.4 mg (15% yield) of the title compound.

reactant | 10-bromo-9-fluoro-3-[hydroxy-(4-methylthiazol-5-yl)methyl]-5,6-dihydroimidazo[1,2-d][1,4]benzoxazepine-2-carboxylic acid | BrC=1C(=CC2=C(C=3N(CCO2)C(=C(N3)C(=O)O)C(C3=C(N=CS3)C)O)C1)F | C17H13BrFN3O4S
reactant | ammonium chloride | [Cl-].[NH4+]
product | (±)-10-bromo-9-fluoro-3-[hydroxy-(4-methylthiazol-5-yl)methyl]-5,6-dihydroimidazo[1,2-d][1,4]benzoxazepine-2-carboxamide | 30.4 mg, 15% yield | BrC=1C(=CC2=C(C=3N(CCO2)C(=C(N3)C(=O)N)C(C3=C(N=CS3)C)O)C1)F | C17H14BrFN4O3S
